US08207164B2
i) ((R)-5-{5-[(5-Chloro-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
[(R)-5-(5-Amino-2-fluoro-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (75 mg, 0.22 mmol), 5-chloro-pyridine-2-carboxylic acid (38.1 mg, 0.242 mmol), HOAt (38.9 mg, 0.286 mmol), EDC (63.2 mg, 0.33 mmol) and Et3N (77 μl, 0.549 mmol) were dissolved in CH2Cl2 and stirred for 14 h. The solution was evaporated and the crude product was purified by chromatography on silica gel (heptane/EtOAc 6/1) to provide the title compound as a white solid.

reactant | [(R)-5-(5-Amino-2-fluoro-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.22 mmol, 75 mg | C(C)(C)(C)OC(NC=1COC[C@@](N1)(CF)C1=C(C=CC(=C1)N)F)=O | C16H21F2N3O3
reactant | 5-chloro-pyridine-2-carboxylic acid | 0.242 mmol, 38.1 mg | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
reactant | HOAt | 0.286 mmol, 38.9 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.33 mmol, 63.2 mg
reactant | Et3N | 0.549 mmol, 77 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ((R)-5-{5-[(5-Chloro-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COC[C@@](N1)(CF)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)Cl)F)=O | C22H23ClF2N4O4
